US09403834B2
A mixture of N-(tert-butyl)-5-(1-chloro-8-phenylpyrrolo[1,2-d][1,2,4]triazin-4-yl)pyridine-3-sulfonamide (0.050 g, 0.11 mmol) and 3-fluoroaniline (0.151 g, 1.36 mmol) was heated in a s sealed tube at 100° C. for 12 h. The volatile components were removed under reduced pressure and the resulting residue was purified by preparative HPLC (Condition B-6 described in general methods) to obtain N-(tert-butyl)-5-(1-((3-fluorophenyl)amino)-8-phenylpyrrolo[1,2-d][1,2,4]triazin-4-yl)pyridine-3-sulfonamide (0.022 g, 38%) as a pale yellow solid. LCMS Method B-7: retention time 2.14 min, [M+1]=517.0, Purity 94.7%. LCMS Method B-8: retention time 1.74 min, [M+1]=517.0, Purity 95.4%. 1H NMR (400 MHz, DMSO-d6) δ ppm: 1.19 (s, 9H), 6.82 (td, J=2.0 Hz, J=8.4 Hz, 1H), 6.95 (dd, J=1.6 Hz, J=8.0 Hz, 1H), 7.12 (d, J=2.8 Hz, 1H), 7.27-7.31 (m, 1H), 7.50-7.64 (m, 6H), 7.70 (dt, J=2.4 Hz, J=12.0 Hz, 1H), 7.75 (d, J=2.8 Hz, 1H), 7.96 (s, 1H), 8.71 (t, J=2.0 Hz, 1H), 9.20 (d, J=2.0 Hz, 1H), 9.31 (d, J=2.0 Hz, 1H).

reactant | N-(tert-butyl)-5-(1-chloro-8-phenylpyrrolo[1,2-d][1,2,4]triazin-4-yl)pyridine-3-sulfonamide | 0.11 mmol, 0.050 g | C(C)(C)(C)NS(=O)(=O)C=1C=NC=C(C1)C1=NN=C(C=2N1C=CC2C2=CC=CC=C2)Cl | C21H20ClN5O2S
reactant | 3-fluoroaniline | 1.36 mmol, 0.151 g | FC=1C=C(N)C=CC1 | C6H6FN
product | N-(tert-butyl)-5-(1-((3-fluorophenyl)amino)-8-phenylpyrrolo[1,2-d][1,2,4]triazin-4-yl)pyridine-3-sulfonamide | 0.022 g, 38% | C(C)(C)(C)NS(=O)(=O)C=1C=NC=C(C1)C1=NN=C(C=2N1C=CC2C2=CC=CC=C2)NC2=CC(=CC=C2)F | C27H25FN6O2S
